US08492582B2
Dioxane (2.0 mL) and a 4 mol/L aqueous solution of sodium hydroxide (0.22 mL) were added to the obtained methyl 2-(2-acetoxy-5-methoxybenzamido)-4-(furan-2-yl)benzoate (0.073 g), followed by stirring at 50 to 55° C. for 2 hours and 30 minutes. The reaction mixture was cooled to room temperature, and a 10% aqueous solution of citric acid (6 mL) was added thereto. The solid substance was collected by filtration to obtain 0.062 g of 4-(furan-2-yl)-2-(2-hydroxy-5-methoxybenzamido)benzoic acid as a white solid.

reactant | sodium hydroxide | 0.22 mL | [OH-].[Na+]
reactant | methyl 2-(2-acetoxy-5-methoxybenzamido)-4-(furan-2-yl)benzoate | 0.073 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C=2OC=CC2)C=C(C=C1)OC | C22H19NO7
reactant | citric acid | 6 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | Dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 4-(furan-2-yl)-2-(2-hydroxy-5-methoxybenzamido)benzoic acid | 0.062 g | O1C(=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(C1=C(C=CC(=C1)OC)O)=O | C19H15NO6
